* C:\users\atorres\Mis Documentos\Facultad\TC2\JupyterNotebook\trabajo_semanal3_torres\pasabjos2.asc
R1 Vo N002 {1/(2*w0)}
C1 Vo 0 {C}
L1 Vi N001 {1/(2*w0*w0*C)}
R2 N001 0 {1/(2*w0*C)}
C2 N001 0 {C}
XU1 N001 N002 N002 opamp Aol=100K GBW=10Meg
V1 Vi 0 SINE(0 10m 1k) AC 10m
.param C=100n
.param w0=9425
.ac dec 10 0.1 100k
.inc opamp.sub
* Implementación pasabajos orden 3.\nDesnormalizado a w0=9425 rad/seg
.backanno
.end
